US07622583B2
To a solution of 4-chloro-N-{2-[(2-chloro-5-nitro-phenyl)-hydroxy-methyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (441 mg, 0.76 mmol) in CH2Cl2 (5 mL) was added Dess-Martin periodinane (645 mg, 1.52 mmol) and stirred for 6 h at room temperature. 10% Na2S2O3 (5 mL) and saturated aqueous NaHCO3 solution (5 mL) was added and stirred for 30 min. Aqueous layer was separated and extracted with EtOAc (2 ×25 mL). Combined organic layers were washed with saturated aqueous NaHCO3 solution (20 mL), brine (20 mL), dried (anhydrous Na2SO4), concentrated and purified (SiO2, 40% EtOAc-hexanes) to obtain 4-chloro-N-[2-(2-chloro-5-nitro-benzoyl)-5-methyl-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (230 mg) as yellow syrup in 52% yield. ESMS m/z (relative intensity): 545.9 (M-31)+(100), 578 (M+H)+(50), 599.9 (M+Na)+(65).

reactant | 4-chloro-N-{2-[(2-chloro-5-nitro-phenyl)-hydroxy-methyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.76 mmol, 441 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C(O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C(F)(F)F | C22H18Cl2F3N3O6S
reactant | Dess-Martin periodinane | 1.52 mmol, 645 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 5 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[2-(2-chloro-5-nitro-benzoyl)-5-methyl-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 230 mg, 52% yield | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O)C(F)(F)F | C22H16Cl2F3N3O6S
